US07902181B2
a) (S)-tert-Butyl 2-((S)-1-amino-3-(4-(3-methyl-2-oxo-2,3-dihydrobenzo[d]oxazol-5-yl)phenyl)-1-oxopropan-2-ylcarbamoyl)piperidine-1-carboxylate
A mixture of (S)-tert-butyl 2-((S)-1-amino-1-oxo-3-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)propan-2-ylcarbamoyl)piperidine-1-carboxylate (113 mg), 5-bromo-3-methylbenzo[d]oxazol-2(3H)-one (51.4 mg), [1,1′-bis[bis(1,1-dimethylethyl)phosphino-κP]ferrocene]dichloro palladium (7.34 mg) and potassium carbonate (93 mg) in acetonitrile (0.7 mL) and water (0.35 mL) was stirred at 75° C. for 2 h. The solvent was removed in vacuo and the residue was purified by flash silica chromatography eluting with 1:1 isohexane/acetone to give the subtitle compound (112 mg).

reactant | (S)-tert-butyl 2-((S)-1-amino-1-oxo-3-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)propan-2-ylcarbamoyl)piperidine-1-carboxylate | 113 mg | NC([C@H](CC1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)NC(=O)[C@H]1N(CCCC1)C(=O)OC(C)(C)C)=O | C26H40BN3O6
reactant | 5-bromo-3-methylbenzo[d]oxazol-2(3H)-one | 51.4 mg | BrC=1C=CC2=C(N(C(O2)=O)C)C1 | C8H6BrNO2
reactant | potassium carbonate | 93 mg | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 0.7 mL | C(C)#N | C2H3N
solvent | water | 0.35 mL | O | H2O
product | (S)-tert-Butyl 2-((S)-1-amino-3-(4-(3-methyl-2-oxo-2,3-dihydrobenzo[d]oxazol-5-yl)phenyl)-1-oxopropan-2-ylcarbamoyl)piperidine-1-carboxylate | 112 mg | NC([C@H](CC1=CC=C(C=C1)C=1C=CC2=C(N(C(O2)=O)C)C1)NC(=O)[C@H]1N(CCCC1)C(=O)OC(C)(C)C)=O | C28H34N4O6
